US06586617B1
Synthesis of 4′-Fluoro-N-isopropyl-2′-nitro-p-toluenesulfonanilide (Compound No. 265)
4′-Fluoro-2′-nitro-p-toluenesulfonanilide sodium salt (66.46 g (200 mmol)) was dissolved in DMF (66 ml). To this, under heating in an oil bath kept at 120° C., isopropyl iodide (102.0 g (600 mmol)) was added over a period of 20 minutes. The resulting mixture was left to cool to room temperature, mixed with 1% aqueous sodium hydroxide solution and stirred. The resulting crystals were filtered, washed with water and ethanol, successively. The crude crystals thus obtained were recrystallized from ethyl acetate to give 30.58 g (43%) of the title compound as pale yellow crystals.

reactant | 4′-Fluoro-2′-nitro-p-toluenesulfonanilide sodium salt | 200 mmol, 66.46 g | [Na].FC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-]
reactant | isopropyl iodide | 600 mmol, 102.0 g | C(C)(C)I | C3H7I
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 66 ml | CN(C)C=O | C3H7NO
product | 4′-Fluoro-N-isopropyl-2′-nitro-p-toluenesulfonanilide | 30.58 g, 43% | FC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C(C)C)C=C1)[N+](=O)[O-] | C16H17FN2O4S
